US04568751
3-[(Dimethylamino)Methylene]-2,4-Octanedione
A mixture of 2,4-octanedione (7.11 g, 0.50 mole) and dimethylformamide dimethylacetal (7.15 g, 0.60 mole) was stirred overnight at room temperature under argon. The resulting red oil was concentrated on the rotary evaporation then distilled on the kugelrohr at -15 mm, 140°-155° C. to yield 8.60 g (87%) of 3-[(dimethylamino)methyleno]-2,4-octanodione.

reactant | 2,4-octanedione | 0.50 mole, 7.11 g | CC(CC(CCCC)=O)=O | C8H14O2
reactant | dimethylformamide dimethylacetal | 0.60 mole, 7.15 g | COC(N(C)C)OC | C5H13NO2
product | 3-[(Dimethylamino)Methylene]-2,4-Octanedione | CN(C)C=C(C(C)=O)C(CCCC)=O | C11H19NO2
